US06509328B1
(2′-Fluoro-3-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-bipheny-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G37) (362 mg, 1.2 mmol) and 3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example H8) (300 mg, 1.0 mmol) according to the general procedure K. Obtained as a yellow amorphous substance (312 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 1.2 mmol, 362 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | 1.0 mmol, 300 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)C)=O | C17H20N2O3
product | (2′-Fluoro-3-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-bipheny-4-yl)-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)C)=O)=O | C30H29FN4O4
